US04661512
(1) benzyl N-dipropylacetyl-(L)-pyroglutamate
50.3 g (230 mmol) of benzyl (L)-pyroglutamate, prepared according to Example II(1), are dissolved in 200 ml of chloroform and 36.3 g (359 mmol) of triethylamine at ordinary temperature. A solution of 37.4 g (230 mmol) of dipropylacetyl chloride in 50 ml of chloroform is run in and the mixture is heated under reflux for 5 hours.

reactant | benzyl (L)-pyroglutamate | 230 mmol, 50.3 g | N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | triethylamine | 359 mmol, 36.3 g | C(C)N(CC)CC | C6H15N
reactant | dipropylacetyl chloride | 230 mmol, 37.4 g | C(CC)C(C(=O)Cl)CCC | C8H15ClO
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl N-dipropylacetyl-(L)-pyroglutamate | C(CC)C(C(=O)N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1)CCC | C20H27NO4
